US08486967B2
a) 3-Bromo-6-(trifluoromethyl)pyridin-2-amine
A solution of 6-(trifluoromethyl)pyridin-2-amine (200 mg, 1.23 mmol) in dichlormethane (2.47 mL) was cooled to 0° C. and bromine (197 mg, 63.4 μL, 1.23 mmol) was slowly added within 30 minutes. After 25 hours at 0° C. the reaction mixture was extracted with saturated Na2S2O3 solution, water and brine, dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography over silica gel using CH2Cl2/MeOH (with 10% ammonia) as eluent. The title compound was obtained as a white solid (711 mg, 24%).

reactant | 6-(trifluoromethyl)pyridin-2-amine | 1.23 mmol, 200 mg | FC(C1=CC=CC(=N1)N)(F)F | C6H5F3N2
reactant | bromine | 1.23 mmol, 63.4 μL, 197 mg | BrBr | Br2
solvent | dichlormethane | 2.47 mL | ClCCl | CH2Cl2
product | 3-Bromo-6-(trifluoromethyl)pyridin-2-amine | BrC=1C(=NC(=CC1)C(F)(F)F)N | C6H4BrF3N2
